US06982274B2
1,5-Dibromo-2,4-difluorobenzene
A total of 1.6 g of 1-bromo-2,4-difluorobenzene was suspended in 8.29 ml of sulfuric acid, and 1.62 g of N-bromosuccinimide was added under ice-cooling. After stirring at room temperature for 17 hours, the reaction mixture was poured onto ice-water and extracted with ethyl acetate. The resulting organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (hexane), to give 2.18 g of the title compound as a pale yellow oil.

reactant | 1-bromo-2,4-difluorobenzene | 1.6 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | N-bromosuccinimide | 1.62 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | sulfuric acid | 8.29 ml | S(O)(O)(=O)=O | H2O4S
product | 1,5-Dibromo-2,4-difluorobenzene | 2.18 g | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
